US08440662B2
4-(3-(2,3-difluoro-4-(7-(1-methyl-1H-pyrazol-4-yl)-4-morpholino-pyrido[3,2-d]pyrimidin-2-yl)phenyl)ureido)-N,N-dimethyl-benzamide
To a 50 mL round bottom flask, 4-(2-chloro-7-(1-methyl-1H-pyrazol-4-yl)pyrido[3,2-d]pyrimidin-4-yl)morpholine (0.1 g, 0.0003 mol), 4-(3-(2,3-difluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ureido)-N,N-dimethyl-benzamide (0.16 g, 0.00036 mol), cesium carbonate (0.244 g, 0.00075 mol), toluene (7 mL), EtOH (7 mL), and water (3 mL) were added. The reaction mixture was degassed with nitrogen for 5-10 min. To the same reaction flask, Pd(PPh3)2Cl2 (0.0105 g, 0.000015 mol) was added and again degassed with nitrogen for 5-10 min. The reaction mixture was stirred at 75° C. for 3 h. To the cooled reaction mixture, ice cold water was added to obtain the solid. The crude product was obtained by the filtration of the solid. The crude product was purified by column chromatography using 60-120 silica gel and 4% MeOH in chloroform to isolate the product. The isolated product was washed with MeOH and filtered. The compound was further purified by prep TLC using 7% MeOH in chloroform to yield the title compound [0.02 g, 11%]. 1H NMR (400 MHz, DMSO-d6): δ 9.38 (brs, 1H), 9.09 (d, J=2.0 Hz, 1H), 9.01 (brs, 1H), 8.53 (s, 1H), 8.32 (d, J=2.0 Hz, 1H), 8.24 (s, 1H), 8.14-7.97 (m, 2H), 7.54 (d, J=8.4 Hz, 2H), 7.40 (d, J=8.4 Hz, 2H), 4.49 (brs, 4H), 3.92 (s, 3H), 3.81 (brs, 1H), 2.96 (s, 6H). LC-MS (ESI): Calculated mass: 613.2; Observed mass: 614.2 (RT: 0.63 min).

reactant | 4-(2-chloro-7-(1-methyl-1H-pyrazol-4-yl)pyrido[3,2-d]pyrimidin-4-yl)morpholine | 0.0003 mol, 0.1 g | ClC=1N=C(C2=C(N1)C=C(C=N2)C=2C=NN(C2)C)N2CCOCC2 | C15H15ClN6O
reactant | 4-(3-(2,3-difluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ureido)-N,N-dimethyl-benzamide | 0.00036 mol, 0.16 g | FC1=C(C=CC(=C1F)B1OC(C(O1)(C)C)(C)C)NC(NC1=CC=C(C(=O)N(C)C)C=C1)=O | C22H26BF2N3O4
reactant | cesium carbonate | 0.00075 mol, 0.244 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | toluene | 7 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)2Cl2 | 0.000015 mol, 0.0105 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 3 mL | O | H2O
solvent | EtOH | 7 mL | CCO | C2H6O
product | 4-(3-(2,3-difluoro-4-(7-(1-methyl-1H-pyrazol-4-yl)-4-morpholino-pyrido[3,2-d]pyrimidin-2-yl)phenyl)ureido)-N,N-dimethyl-benzamide | 0.02 g, 11% | FC1=C(C=CC(=C1F)C=1N=C(C2=C(N1)C=C(C=N2)C=2C=NN(C2)C)N2CCOCC2)NC(NC2=CC=C(C(=O)N(C)C)C=C2)=O | C31H29F2N9O3
